US07893056B2
[(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.2197 g, 0.387 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). This reaction mixture was left to stir over 3 days. The volatiles were evaporated, and the resulting residue was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide as a beige solid (0.0878 g, 47%). LCMS: (M+H)+=484.2.

reactant | [(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.387 mmol, 0.2197 g | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)NCC=1SC=CN1)SC | C24H34FN7O4S2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.0878 g, 47% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)NCC=1SC=CN1)SC | C19H26FN7O3S2
